US05290934
Ethyl 2-(2-methyl-3,4,6-trifluorobenzoyl)-3-cyclopropylaminoacrylate (2.6 g) is dissolved in anhydrous dioxane (26 ml) and thereto 60 % sodium hydride (0.38 g) is gradually added under ice-cooling. After stirring at room temperature for 30 minutes, the reaction mixture is poured into ice-water and extracted with dichloromethane. The extract is dried over magnesium sulfate and concentrated. The residue is added with diethyl ether and crystals are filtered, which are recrystallized from ethanol to give ethyl 1-cyclopropyl-6,7-difluoro-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate (2.0 g), m.p. 185°-187° C.

reactant | Ethyl 2-(2-methyl-3,4,6-trifluorobenzoyl)-3-cyclopropylaminoacrylate | 2.6 g | CC1=C(C(=O)C(C(=O)OCC)=CNC2CC2)C(=CC(=C1F)F)F | C16H16F3NO3
reactant | sodium hydride | 0.38 g | [H-].[Na+]
solvent | dioxane | 26 ml | O1CCOCC1 | C4H8O2
product | ethyl 1-cyclopropyl-6,7-difluoro-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 2.0 g | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)F)F)C)=O)C(=O)OCC | C16H15F2NO3
